US06803457B1
2-Benzyloxy-5-(2-trimethylsilyl-ethynyl)-benzoic acid benzyl ester
Pd(PPh3)2Cl2 (194 mg, 0.277 mmol), copper iodide (106 mg, 0.554 mmol) and triethylamine (0.8 mL, 5.44 mmol) were added to a solution of 2-benzyloxy-5-iodo-benzoic acid benzyl ester (1.23 g, 2.77 mmol) and trimethylsilyl acetylene (0.5 mL, 3.32 mmol) in anhydrous DMF (15 mL) at room temperature. The flask was covered with aluminum foil and stirred overnight. The mixture was diluted with ethyl acetate (50 mL) and washed with water (3×), 1N HCl (1×) and brine (1×), dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (5% ethyl acetate/hexanes) to afford 1.07 g (93%) of the title compound as an oil. 1H NMR (400 MHz, CDCl3) δ 7.98 (d, 1H, J=2 Hz); 7.52 (dd, 1H, J=9.1, 1 Hz); 7.38 (m, 10H); 6.95 (d, 1H, J=9.1 Hz); 5.31 (s, 2H); 5.17 (s, 2H); 0.1 (s, 9H).

reactant | triethylamine | 5.44 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | 2-benzyloxy-5-iodo-benzoic acid benzyl ester | 2.77 mmol, 1.23 g | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)I)OCC1=CC=CC=C1)=O | C21H17IO3
reactant | trimethylsilyl acetylene | 3.32 mmol, 0.5 mL | C[Si](C)(C)C#C | C5H10Si
reactant | aluminum | [Al] | Al
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.277 mmol, 194 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.554 mmol, 106 mg | [Cu](I)I
product | 2-Benzyloxy-5-(2-trimethylsilyl-ethynyl)-benzoic acid benzyl ester | 1.07 g, 93% | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)C#C[Si](C)(C)C)OCC1=CC=CC=C1)=O | C26H26O3Si
